US08492582B2
To a solution mixture of tert-butyl 4-(2-((tert-butoxycarbonyl)(methyl)amino)phenyl)-2-nitrobenzoate (0.057 g) in ethyl acetate (2.5 mL) and methanol (2.5 mL), 10% palladium-carbon (0.011 g) was added. The mixture was stirred under a hydrogen atmosphere at room temperature for 3 hours. The insoluble substance was removed by filtration, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [eluent: 95-85% hexane/ethyl acetate] to obtain 0.048 g of tert-butyl 2-amino-4-(2-((tert-butoxycarbonyl)(methyl)amino)phenyl)benzoate as a white solid.

reactant | tert-butyl 4-(2-((tert-butoxycarbonyl)(methyl)amino)phenyl)-2-nitrobenzoate | 0.057 g | C(C)(C)(C)OC(=O)N(C1=C(C=CC=C1)C1=CC(=C(C(=O)OC(C)(C)C)C=C1)[N+](=O)[O-])C | C23H28N2O6
solvent | ethyl acetate | 2.5 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 2.5 mL | CO | CH4O
catalyst | palladium-carbon | 0.011 g | [C].[Pd]
product | tert-butyl 2-amino-4-(2-((tert-butoxycarbonyl)(methyl)amino)phenyl)benzoate | 0.048 g | NC1=C(C(=O)OC(C)(C)C)C=CC(=C1)C1=C(C=CC=C1)N(C)C(=O)OC(C)(C)C | C23H30N2O4
